US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-ethoxy-3-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid as light yellow solid.

reactant | [rac]-2-ethoxy-3-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)OCC)=O | C26H28F3NO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-{2-methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C | C24H24F3NO4S
